US04007450
SU-1, upon termination, fires single shot 658 yielding SU-2, which shifts the shift register 480 one bit position and increments the counter 482 one count. This is the same type of shift and look as employed in the SP sequence. SU-3 following SU-2 tests the counter 482 for 7. If not 7, line 286 is potentialized, firing single shot 662 to produce SU-4. Pulse SU-4 opens gate 540 (FIG. 3N) to test the shifted bit in shift register 480 for 0 or 1. If 0, line 290 is hot to fire single shot 658 via OR 656 to repeat the shift, count, and test routine until a 1 is detected. This 1 test at SU-4 potentializes line 288 to fire single shot 666 to yield the SU-5 pulse, which pulse gates the output of the counter 482 by means of OR 486 and gate 548 to cable 224 and destination register 454 (FIG. 3S).

reactant | SU-1 | C[C@H]([C@@H]1CC[C@H]([C@H](O1)O[C@@H]2[C@H](C[C@H]([C@@H]([C@H]2O)O[C@@H]3[C@@H]([C@H]([C@@](CO3)(C)O)NC)O)O)N)N)N | C20H40N4O8
reactant | SU-2 | C[C@@]1(CO[C@@H]([C@@H]([C@H]1NC)O)O[C@H]2[C@@H](C[C@@H]([C@H]([C@@H]2O)O[C@@H]3[C@@H](CC[C@H](O3)CN)N)N)O)O | C19H38N4O8
reactant | SU-3 | C[C@@]1(CO[C@@H]([C@@H]([C@H]1NC)O)O[C@H]2[C@@H](C[C@@H]([C@H]([C@@H]2O)O[C@@H]3[C@@H](CC[C@H](O3)CNC)N)N)O)O | C20H40N4O8
product | SU-4 | C[C@@]1(CO[C@@H]([C@@H]([C@H]1NC)O)O[C@H]2CC[C@@H]([C@H]([C@@H]2O)O[C@@H]3[C@@H](CC[C@H](O3)CN)N)N)O | C19H38N4O7
